US06197826B1
Synthesis of α-(3,5-Dinitro-2-hydroxyphenyl)-N-tert-butylnitrone
The title compound was prepared according to the procedure described in Example 13 using 3,5-dinitro-2-hydroxybenzaldehyde and N-tert-butylhydroxylamine. The title compound was isolated in 4.4% yield as a yellow crystalline solid, m.p. 200.3° C. (Rf=0.15 on a silica gel plate using 10:1 EtOAc/MeOH as an eluant).

reactant | 3,5-dinitro-2-hydroxybenzaldehyde | [N+](=O)([O-])C=1C(=C(C=O)C=C(C1)[N+](=O)[O-])O | C7H4N2O6
reactant | N-tert-butylhydroxylamine | C(C)(C)(C)NO | C4H11NO
product | α-(3,5-Dinitro-2-hydroxyphenyl)-N-tert-butylnitrone | [N+](=O)([O-])C=1C(=C(C=C(C1)[N+](=O)[O-])C=[N+]([O-])C(C)(C)C)O | C11H13N3O6
